US08871756B2
4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinoline-6-methanol
To a solution of methyl 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinoline-6-carboxylate (2.0 g, 4.8 mmol) in tetrahydrofuran (50 mL) was added sodium borohydride (729 mg, 19.2 mmol). After being refluxed for 60 hours, the reaction mixture was diluted with water (30 mL) and extracted with dichloromethane (50 mL×2). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to afford 1.4 g of the crude product.

reactant | methyl 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinoline-6-carboxylate | 4.8 mmol, 2.0 g | ClC1=CC(=NC2=CC=C(C=C12)C(=O)OC)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H17ClN2O4S
reactant | sodium borohydride | 19.2 mmol, 729 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinoline-6-methanol | 1.4 g | ClC1=CC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O3S
